US05359091
(E)-N-(2-Octen-4-ynyl)-N-ethyl-3-[3-(3-thienyl)benzyloxy]benzylamine
To a solution of 100 mg (0.25 mmol) of (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[3-(3-thienyl)benzyloxy]benzylamine in 2 ml of tetrahydrofuran were added 5.6 mg(0.021 mmol) of triphenylphosphine, 5.0 mg (0.028 mmol) of palladium chloride, 6.0 mg (0.032 mmol) of copper (I) iodide, 100 μl (1.0 mmol) of n-butylamine and 464 μl (4.8 mmol) of 1-pentyne. The mixture was stirred for 24 hours at 40° C. The same workup and purification as in Example 20 gave 59 mg (yield: 55%) of the above identified compound as a brown oil.

reactant | (E)-N-(3-chloro-2-propenyl)-N-ethyl-3-[3-(3-thienyl)benzyloxy]benzylamine | 0.25 mmol, 100 mg | Cl/C=C/CN(CC)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C1=CSC=C1 | C23H24ClNOS
reactant | triphenylphosphine | 0.021 mmol, 5.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 1.0 mmol, 100 μl | C(CCC)N | C4H11N
reactant | 1-pentyne | 4.8 mmol, 464 μl | C#CCCC | C5H8
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | palladium chloride | 0.028 mmol, 5.0 mg | [Pd](Cl)Cl
catalyst | copper (I) iodide | 0.032 mmol, 6.0 mg | [Cu]I
product | (E)-N-(2-Octen-4-ynyl)-N-ethyl-3-[3-(3-thienyl)benzyloxy]benzylamine | yield: 55% | C(\C=C\C#CCCC)N(CC)CC1=CC(=CC=C1)OCC1=CC(=CC=C1)C1=CSC=C1 | C28H31NOS
